### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Localization): derivability structures and Guitart exact squares

### PR DESCRIPTION
**Pull request by joelriou**
We obtain abstract result about derivability structures which will imply that for categories of homological complexes, certain localizer morphisms are derivability structures iff the corresponding localizer morphisms on homotopy categories are derivability structures.

---

- [x] depends on: #39024
- [x] depends on: #39025

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Opposites.lean [hunk 1]
```diff
@@ -741,6 +741,10 @@ lemma unop_associator {E E' : Type*} [Category* E] [Category* E']
 
 end NatIso
 
+instance {D : Type*} [Category* D] {F G : C ⥤ D} (α : F ⟶ G) [IsIso α] :
+    IsIso (NatTrans.op α) :=
+  (NatIso.op (asIso α)).isIso_hom
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Opposites.lean]: Can you please add the corresponding lemma that computes `inv (NatTrans.op α)` in terms of `inv α` and tag it `push`?

File: Mathlib/CategoryTheory/GuitartExact/Basic.lean [hunk 2]
```diff
@@ -282,7 +282,7 @@ set_option backward.isDefEq.respectTransparency false in
 /-- When the left and right functors of a 2-square are equivalences, and the natural
 transformation of the 2-square is an isomorphism, then the 2-square is Guitart exact. -/
 instance (priority := 100) guitartExact_of_isEquivalence_of_isIso
-    [L.IsEquivalence] [R.IsEquivalence] [IsIso w] : GuitartExact w := by
+    [L.IsEquivalence] [R.IsEquivalence] [IsIso w.natTrans] : GuitartExact w := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/GuitartExact/Basic.lean:285]: Should `TwoSquare` be a one-field structure? (of course, this wouldn’t be work for this PR!)

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+    [TwoSquare.GuitartExact iso.inv] :
+    B.IsLeftDerivabilityStructure := by
+  have : B.HasLeftResolutions := fun Y₂ ↦ by
+    obtain ⟨X₂, ⟨e₂⟩⟩ := Functor.EssSurj.mem_essImage R.functor Y₂
+    have ρ : T.LeftResolution X₂ := Classical.arbitrary _
+    exact ⟨{
+      X₁ := L.functor.obj ρ.X₁
+      w := iso.inv.app _ ≫ R.functor.map ρ.w ≫ e₂.hom
+      hw := (W₂'.arrow_mk_iso_iff (Arrow.isoMk (iso.app _) e₂)).1 (R.map _ ρ.hw)
+    }⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean]:
```suggestion
      hw := (W₂'.arrow_mk_iso_iff (Arrow.isoMk (iso.app _) e₂)).1 (R.map _ ρ.hw) }⟩
```

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean [hunk 4]
```diff
@@ -0,0 +1,191 @@
...
+  infer_instance
+
+lemma isRightDerivabilityStructure_of_isLocalizedEquivalence
+    [T.IsRightDerivabilityStructure]
+    (iso : T.functor ⋙ R.functor ≅ L.functor ⋙ B.functor)
+    [TwoSquare.GuitartExact iso.hom] :
+    B.IsRightDerivabilityStructure := by
+  rw [isRightDerivabilityStructure_iff_op]
+  let iso' : T.op.functor ⋙ R.op.functor ≅ L.op.functor ⋙ B.op.functor := NatIso.op iso.symm
+  have : R.op.functor.EssSurj := by dsimp; infer_instance
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean]: would making `LocalizerMorphism.op` an abbrev be reasonable? All these `dsimp; infer_instance` are removable if you do that.

File: Mathlib/CategoryTheory/GuitartExact/Basic.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/GuitartExact/Basic.lean:285]: Yes, this could prevent some little abuse of defeq, like the one that is fixed here...

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Localization/DerivabilityStructure/OfLocalizedEquivalences.lean]: Thanks for the suggestion!

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
